* EESchema Netlist Version 1.1 (Spice format) creation date: 2013/10/29 21:35:45

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
Q5  31 23 12 2SC1815		
Q7  33 30 27 2SC1815		
Q8  5 24 35 2SC1815		
Q6  35 32 24 2SC1815		
R12  11 23 1k		
R13  31 32 51		
R16  33 32 51		
R15  11 30 1k		
R17  24 28 30k		
R14  35 5 180		
Q12  34 25 23 2SA1015		
Q17  34 26 30 2SA1015		
R19  11 34 120		
Q15  26 20 38 2SA1015		
Q13  25 39 38 2SA1015		
Q9  29 11 11 2SC1815		
Q10  38 29 29 2SC1815		
Q11  28 38 38 2SC1815		
Q16  8 18 39 2SC1815		
Q14  1 39 39 2SC1815		
R21  20 19 3.0k		
R22  19 18 510		
Q19  13 11 20 2SC1815		
Q20  15 5 18 2SA1015		
R24  13 14 110		
C15  30 20 150p		
C16  20 18 0.1u		
C14  20 19 220p		
R9  12 36 470		
C13  27 36 47p		
R10  12 22 1.8k		
R8  27 21 1.8k		
P7  15 CONN_1		
P2  0 CONN_1		
P3  4 CONN_1		
P4  37 CONN_1		
P6  14 CONN_1		
P5  13 CONN_1		
P1  3 CONN_1		
R7  27 0 33k		
R25  14 15 110		
Q1  11 3 10 2SC1815		
Q2  5 4 9 2SA1015		
Q3  0 10 16 2SC1815		
Q4  0 9 17 2SA1015		
R3  10 16 2k		
R4  16 0 60		
R5  0 17 60		
R6  17 9 2k		
R1  3 10 1k		
R2  4 9 1k		
R18  1 5 150		
R23  8 5 150		
VR1  7 20 500		
R20  7 19 2.7k		
P8  6 CONN_1		
R11  12 6 33k		
C4  4 0 0.1u		
C3  3 0 0.1u		
C2  0 4 47u		
C1  3 0 47u		
C7  11 0 10u		
C8  0 5 10u		
C5  10 0 10u		
C6  0 9 10u		
C12  22 0 6.8u		
C11  37 21 47u		
P9  0 CONN_1		
C10  5 0 0.1u		
C9  11 0 0.1u		
P10  0 CONN_1		
C20  5 0 0.1u		
C19  11 0 0.1u		
C17  11 0 0.1u		
C18  0 5 0.1u		
P12  20 CONN_1		
P11  18 CONN_1		
P13  19 CONN_1		

.end
